* eeschema netlist version 1.1 (spice format) creation date: thursday 18 april 2013 10:53:39 am ist
.include ua741.sub

v1  4 0 pulse(0 1    0.002 0.004)
v2  11 0 10v
* Plotting option vplot8_1
r5  13 3 10000
r4  0 13 10000
r3  1 11 10000
V_u5 8 2 0
q2 2 1 1 npn
x2  1 13 3 ua741
V_u4 10 8 0
q1  10 0 9 npn
V_u1 6 7 0
V_u2 7 9 0
r2  8 5 10000
r1  6 4 1000
x1  7 0 5 ua741

.tran  2e-03 4e-03 0e-00

* Control Statements 
.control
run
plot v(8) v(3) 
plot i(V_u5)
plot i(V_u4)
plot i(V_u1)
plot i(V_u2)
.endc
.end
